US07495007B2
In a manner similar to the method described in example 152a, racemic (2′S,3S,4′R)-6-chloro-2′-(3-chlorophenyl)-4′-(5-fluoro-2-methyl-phenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-methoxyethyl trimethylsilane (0.45 g, 0.75 mmol) was reacted with LiH (0.15 g, 18.8 mmol) and (2-bromo-ethyl)-carbamic acid tert-butyl ester (1.0 g, 4.52 mmol) in N,N-dimethyl-formamide (3 mL), a catalytic amount of KI to give racemic (2′S,3S,4′R)-1′-[(tert-butoxycarbonylamino)ethyl]-6-chloro-2′-(3-chlorophenyl)-4′-(5-fluoro-2-methyl-phenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-methoxyethyl trimethylsilane as a yellow solid (80 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-2′-(3-chlorophenyl)-4′-(5-fluoro-2-methyl-phenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine] 1-methoxyethyl trimethylsilane | 0.75 mmol, 0.45 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)F)C)=O)C1=CC(=CC=C1)Cl)=O.COC(C)[Si](C)(C)C
reactant | LiH | 18.8 mmol, 0.15 g | [H-].[Li+]
reactant | (2-bromo-ethyl)-carbamic acid tert-butyl ester | 4.52 mmol, 1.0 g | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
solvent | N,N-dimethyl-formamide | 3 mL | CN(C=O)C | C3H7NO
product | racemic (2′S,3S,4′R)-1′-[(tert-butoxycarbonylamino)ethyl]-6-chloro-2′-(3-chlorophenyl)-4′-(5-fluoro-2-methyl-phenyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine] 1-methoxyethyl trimethylsilane | 80 mg | C(C)(C)(C)OC(=O)NCCN1C(C2(C(CC1=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O)C1=CC(=CC=C1)Cl.COC(C)[Si](C)(C)C | InChI=1S/C32H32Cl2FN3O4.C6H16OSi/c1-18-8-10-22(35)16-23(18)25-17-27(39)38(13-12-36-30(41)42-31(2,3)4)28(19-6-5-7-20(33)14-19)32(25)24-11-9-21(34)15-26(24)37-29(32)40;1-6(7-2)8(3,4)5/h5-11,14-16,25,28H,12-13,17H2,1-4H3,(H,36,41)(H,37,40);6H,1-5H3
